US07858796B2
(8) 3-(1-{[3-(1-pyrrolidinyl)propyl]sulfonyl}-4-piperidinyl)-5-(3-thienyl)-1H-indole-7-carboxamide
Following the general procedure for aminosulfonamide formation outlined in example 2, 3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-(3-thienyl)-1H-indole-7-carboxamide (55 mg, 0.12 mmol) and pyrrolidine (42.6 mg, 0.60 mmol) were allowed to react in the presence of K2CO3 (84.6 mg, 0.24 mmol) and NaI (Cat. 5 mg). The resulting residue was purified by reverse phase HPLC eluting with 10% B to 80% B, where A=H2O (0.1% trifluoroacetic acid) and B=CH3CN (0.1% trifluoroacetic acid) to give the title compound (23.2 mg, 39%).

reactant | aminosulfonamide | NS(=O)(=O)N | H4N2O2S
reactant | 3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-(3-thienyl)-1H-indole-7-carboxamide | 0.12 mmol, 55 mg | ClCCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CSC=C1)C(=O)N | C21H24ClN3O3S2
reactant | pyrrolidine | 0.60 mmol, 42.6 mg | N1CCCC1 | C4H9N
reactant | K2CO3 | 0.24 mmol, 84.6 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 5 mg | [Na+].[I-]
product | 3-(1-{[3-(1-pyrrolidinyl)propyl]sulfonyl}-4-piperidinyl)-5-(3-thienyl)-1H-indole-7-carboxamide | 23.2 mg, 39% | N1(CCCC1)CCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CSC=C1)C(=O)N | C25H32N4O3S2
